US08664401B2
Step A) (2R)-4-[4-(4-fluorophenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide
Pd EnCat™ (200 mg, 0.06 mmol) was added to a mixture of potassium carbonate (250 mg, 1.81 mmol), (4-fluorophenyl)boronic acid (84 mg, 0.602 mmol), and (2R)-4-(4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide, which may be produced as in Preparation 2 B, (300 mg, 0.602 mmol) in dioxane:water (5.5 mL, 10:1 mixture) in a 25 mL round bottom flask. The flask was heated overnight at 80° C. The reaction was cooled to ambient temperature and filtered through celite and washed with ethyl acetate (20 mL). The crude material was concentrated, and purified by chromatography on silica gel (gradient: 100:0 dichloromethane:methanol to 95:5 dichloromethane:methanol) to provide title compound as a viscous, foamy oil. Yield: 257 mg, 91.5%. MS (APCI) m/z 467.6 (M+H) 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.54-1.65 (m, 3H) 1.68 (d, J=2.34 Hz, 3H) 1.71-1.99 (m, 3H) 2.32-2.44 (m, 1H) 2.44-2.57 (m, 1H) 3.18 (d, J=2.93 Hz, 3H) 3.54-3.66 (m, 1H) 3.97-4.10 (m, 1H) 4.11-4.25 (m, 1H) 4.25-4.38 (m, 1H) 5.16 (d, J=15.81 Hz, 1H) 6.48 (dd, J=6.93, 1.27 Hz, 1H) 6.76 (s, 1H) 7.12 (t, J=8.59 Hz, 2H) 7.39 (d, J=7.02 Hz, 1H) 7.47-7.57 (m, 2H) 12.15 (d, J=7.42 Hz, 1H)

reactant | potassium carbonate | 1.81 mmol, 250 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (4-fluorophenyl)boronic acid | 0.602 mmol, 84 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | (2R)-4-(4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | IC1=CC(N(C=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C16H23IN2O6S
reactant | water | 5.5 mL | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd | [Pd] | Pd
product | (2R)-4-[4-(4-fluorophenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | FC1=CC=C(C=C1)C1=CC(N(C=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C22H27FN2O6S
